US04871842
A solution of 0.57 g of sodium cyanoborohydride in 40 ml of ethanol is added dropwise to a stirred mixture of 2 g of N-(L-alanyl)-L-proline tert-butyl ester. oxalate, 1 g of sodium acetate, 0.72 g of acetic acid, 10 g of molecular sieves 3A, 3.4 g of ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate and 50 ml of ethanol at room temperature over a period of 2 hours. The reaction mixture is allowed to stand overnight and filtered, and the filtrate is concentrated under reduced pressure. The resulting oily material is purified by silica gel column chromatography (hexane:ethyl acetate=1:1 to hexane:acetone=1:1) to give 0.66 g of N-[N-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-L-proline tert-butyl ester as a colorless oil.

reactant | sodium cyanoborohydride | 0.57 g | C(#N)[BH3-].[Na+]
reactant | N-(L-alanyl)-L-proline tert-butyl ester | 2 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | C12H22N2O3
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | sodium acetate | 1 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate | 3.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | 0.72 g | C(C)(=O)O | C2H4O2
product | N-[N-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-L-proline tert-butyl ester | 0.66 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C33H51N3O7
